US08242260B2
A dried 500 mL round bottom flask was charged with 2,4,5-tribromoimidazole (20.0 g, 65.6 mmol) and anhydrous DMF (100 mL), the resulting solution was cooled to 0° C. To this cold solution was added NaH (60% in mineral oil, 2.80 g, 70.0 mmol) portionwise with gas evolution under control and an internal temperature maintained below 10° C. After addition, the cold bath was removed and the resulting mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was cooled back to 0° C., and SEMCl (12.2 mL, 69.5 mmol) was added to the reaction via syringe pump over 30 minutes. The reaction was stirred at 0° C. for an additional 30 minutes and at room temperature for another 30 minutes. The reaction was deemed complete by LCMS and the mixture was partitioned between EtOAc (150 mL) and water (300 mL), and the layers separated. The organic phase was sequentially washed with dilute aqueous NaCl (5% w/w) twice, then brine (100 mL), dried (Na2SO4), concentrated and a light yellow solid was obtained. The crude material was recrystallized from hot petroleum ether (30 mL) and the solids were harvested from the mother liquor at 0° C. The product was washed with cold petroleum ether (30 mL) and dried under vacuum to afford 2,4,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole (26.3 g, 92% yield): 1H NMR (400 MHz, CDCl3) δ 5.31 (s, 2H), 3.59 (t, J=7.2 Hz, 2H), 0.92 (t, J=7.2 Hz, 2H), −0.01 (s, 9H).

reactant | 2,4,5-tribromoimidazole | 65.6 mmol, 20.0 g | BrC=1NC(=C(N1)Br)Br | C3HBr3N2
reactant | NaH | 70.0 mmol, 2.80 g | [H-].[Na+]
reactant | SEMCl | 69.5 mmol, 12.2 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2,4,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 26.3 g, 92% yield | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
